US06824893B2
Preparation of 2-Quinolylacetonitrile:
To a solution of 2-(chloromethyl)quinoline (20.74 g, 117 mmol) in ethanol and water (200 mL, 4:1 ratio) was added NaCN (5.73 g, 117 mmol), and the reaction mixture was heated at reflux for 18 h. The reaction mixture was cooled to ambient temperature; diluted with a mixture of heptane, ethyl acetate, and THF; and washed with a 5% aqueous solution of K2CO3 and brine. The organic layer was isolated and dried over MgSO4. Purification by column chromatography with an elution gradient of 75:25 heptane/ethyl acetate to 65:35 heptane/ethyl acetate afforded 14.6 g (74.5%) of desired product. Results of 1H NMR spectroscopy and electrospray mass spectroscopy are consistent with the product. 1H NMR (300 MHz, CDCl3): δ 4.12 (s, 2H), 7.66 (m, 2H), 7.76 (m, 2H), 7.84 (d, J=8.2 Hz, 1H), 8.06 (d, J=8.2 Hz, 1H), 8.22 (d, J 8.5 Hz, 1H).

reactant | 2-(chloromethyl)quinoline | 117 mmol, 20.74 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | NaCN | 117 mmol, 5.73 g | [C-]#N.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-Quinolylacetonitrile | 14.6 g, 74.5% | N1=C(C=CC2=CC=CC=C12)CC#N | C11H8N2
